### PR TITLE
feat: Ajtai commitments and lattices 

### PR DESCRIPTION
**Pull request by tobias-rothmann**
## Motivation

Adds the lattice-based foundations and Ajtai commitment schemes underpinning the
Greyhound [NS24] / Hachi [NOZ26] polynomial commitments, built on the computable
cyclotomic ring `Rq Φ` over `CompPoly`.

## What's included

**`ArkLib/Data/Lattices/`**
- `ModuleSIS.lean` — generic SIS search game + Module-SIS specialization over `Rq Φ`.
- `CyclotomicRing/` — the cyclotomic modulus data (`powTwoCyclotomic`), the semantic ring
  `R[X]/(Φ_m)`, and `Rq Φ` as a computable `CommRing` of canonical reduced representatives;
  computable vectors/matrices; centered `ℓ∞/ℓ₁/ℓ₂` norms and the norm-growth/invertibility
  facts (`sub_l2NormSq_le` proven; the Micciancio [Mic07] product bound and Lyubashevsky–Seiler
  [LS18] short-element invertibility are deferred as documented `sorry`s).

**`ArkLib/CommitmentScheme/Ajtai/`**
- `Simple/` — the non-hiding Ajtai [Ajt96] commitment with perfect correctness on short
  messages and binding reduced to Module-SIS.
- `Gadget.lean` — base-`b` gadget matrices and the genuine digit-decomposition inverse `G⁻¹`.
- `InnerOuter/` — the inner-outer commitment composition with perfect correctness (lawful
  gadget decompositions) and the weak-binding reduction to Module-SIS.

## Open Issues

Weak binding relies on two lattice-lemmas that are left as sorries for now.

- The Young-Micciancio product norm bound ([Mic07]) 
- the Lyubashevsky-Seiler short-element invertibility ([LS18])

Also, the current ring multiplication is the CompPoly multiplication that is then reduced (mod $X^d + 1$).
It would be good to update this to negacyclic NTT multiplication for speed reasons.  

## References
* [Ajtai, M., *Generating Hard Instances of Lattice Problems*][Ajt96]
* [Lyubashevsky, V., and Seiler, G., *Short, Invertible Elements in Partially Splitting
    Cyclotomic Rings*][LS18]
* [Micciancio, D., *Generalized Compact Knapsacks, Cyclic Lattices, and Efficient One-Way
    Functions*][Mic07]
* [Nguyen, N. K., and Seiler, G., *Greyhound: Fast Polynomial Commitments from Lattices*][NS24]
* [Nguyen, N. K., O'Rourke, G., and Zhang, J., *Hachi: Efficient Lattice-Based Multilinear
    Polynomial Commitments over Extension Fields*][NOZ26]

### CODE REVIEW

File: ArkLib/ToCompPoly/Univariate/Basic.lean [hunk 1]
```diff
@@ -250,6 +250,81 @@ theorem toPoly_divByMonic (fp fq : CPolynomial R) (hq : fq.toPoly.Monic) :
...
+    change (Raw.divModByMonicAux fp.val fq.val).2.toPoly = rem.toPoly
+    simp only [Raw.divModByMonicAux, fuel, rem]
+  have huniq := @Polynomial.div_modByMonic_unique R _ fp.toPoly fq.toPoly
+    quot.toPoly rem.toPoly hq ⟨by rw [_root_.add_comm]; exact heq, hdeg⟩
+  rw [hd]
+  exact huniq.2.symm
+
 end DivisionToPoly
 
+section OfFinCoeff
```
[the remark this answers is not in the document]
Comment (tobias-rothmann) [reply ArkLib/ToCompPoly/Univariate/Basic.lean:277]: Done.

File: ArkLib/Data/Lattices/ModuleSIS.lean [hunk 2]
```diff
@@ -0,0 +1,115 @@
...
+Authors: Tobias Rothmann
+-/
+import ArkLib.Data.Lattices.CyclotomicRing.Rq
+import ArkLib.Data.Lattices.CyclotomicRing.Vectors
+import VCVio
+
+/-!
+# Module Short Integer Solution (Module-SIS) over the Cyclotomic Ring
+
+A small, ArkLib-native generic `SIS` search game and its Module-SIS specialization
```
Comment (alexanderlhicks) [inline ArkLib/Data/Lattices/ModuleSIS.lean:13]: maybe worth adding a todo/explicit reference to the VCV-io module SIS to keep track of the fact we have a duplicate.

File: ArkLib/Data/Lattices/ModuleSIS.lean [hunk 3]
```diff
@@ -0,0 +1,115 @@
+/-
+Copyright (c) 2024-2026 ArkLib Contributors. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Tobias Rothmann
+-/
+import ArkLib.Data.Lattices.CyclotomicRing.Rq
+import ArkLib.Data.Lattices.CyclotomicRing.Vectors
+import VCVio
```
Comment (alexanderlhicks) [inline ArkLib/Data/Lattices/ModuleSIS.lean]: #min_imports 😄

**Review by alexanderlhicks — DISMISSED** [review]

File: ArkLib/Data/Lattices/ModuleSIS.lean (hunk 2 above)
Comment (tobias-rothmann) [reply ArkLib/Data/Lattices/ModuleSIS.lean:13]: Done.

File: ArkLib/Data/Lattices/ModuleSIS.lean (hunk 3 above)
Comment (tobias-rothmann) [reply ArkLib/Data/Lattices/ModuleSIS.lean]: I don't think I get this. Isn't `#min_imports` about unnecessary imports? Because all of these imports are needed (file breaks if you remove one).
Do you mean to reorder these imports? If yes, I put the VCVio import on top for now.

Comment (alexanderlhicks) [reply ArkLib/Data/Lattices/ModuleSIS.lean]: It's currently importing all of VCVio rather than VCVio.OracleComp.Constructions.SampleableType which I think is all that's needed.

Comment (tobias-rothmann) [reply ArkLib/Data/Lattices/ModuleSIS.lean]: Ah yeah! Makes sense. Will update ASAP.

Comment (tobias-rothmann) [reply ArkLib/Data/Lattices/ModuleSIS.lean]: Done @alexanderlhicks . Ready for review :)

**Review by alexanderlhicks — APPROVED** [review]
